US07601722B2
To a solution of tert-butyl 2-[(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)methyl]morpholine-4-carboxylate (385 mg, 0.864 mmol) in methanol (5 mL) was added slowly an ethereal solution of hydrochloric acid (1M, 10 mL). The mixture was swirled for 20 minutes. All volatiles were removed under reduced pressure. The white precipitate was redissolved in minutesimal amount of methanol (˜1 mL). Isopropyl ether was added until the solution became slightly cloudy. The mixture was cooled to −30° C. in a freezer. The white solid formed was collected by decantation, washed with hexane and dried in vacuo to give 327 mg (99%) of 1-(morpholin-2-ylmethyl)-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide hydrochloride as a white powder. MS (ESI) m/z 345.9 ([M+H]+).

reactant | tert-butyl 2-[(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)methyl]morpholine-4-carboxylate | 0.864 mmol, 385 mg | O=S1(N(C2=C(N1CC1CN(CCO1)C(=O)OC(C)(C)C)C=CC=C2)C2=CC=CC=C2)=O | C22H27N3O5S
reactant | hydrochloric acid | 1M, 10 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 1-(morpholin-2-ylmethyl)-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide hydrochloride | 327 mg, 99% | Cl.N1CC(OCC1)CN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O | InChI=1S/C17H19N3O3S.ClH/c21-24(22)19(13-15-12-18-10-11-23-15)16-8-4-5-9-17(16)20(24)14-6-2-1-3-7-14;/h1-9,15,18H,10-13H2;1H
